US07943622B2
Step 3. Synthesis of 4-(4-methoxyphenyl)-2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole hydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(4-(4-methoxyphenyl)thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate di-TFA salt (199 mg, 0.280 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were brought to pH 12 with 1 N NaOH and were extracted with EtOAc (3×). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure, yielding 44.2 mg of the free-base of the desired product. The material was dissolved in MeOH (1 mL) and 4 M HCl in 1,4-dioxane (0.029 mL) was added. This was concentrated under reduced pressure, yielding 48.2 mg (41%) of the desired product as an off-white solid. LC-MS: RT=4.98 min, [M+H]+=383.0.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(4-(4-methoxyphenyl)thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate di-TFA salt | 0.280 mmol, 199 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.COC1=CC=C(C=C1)C=1N=C(SC1)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
solvent | MeOH | 1 mL | CO | CH4O
product | 4-(4-methoxyphenyl)-2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole hydrochloride | Cl.COC1=CC=C(C=C1)C=1N=C(SC1)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C20H22N4O2S.ClH/c1-25-17-6-4-15(5-7-17)19-14-27-20(23-19)24-10-9-22-11-16(24)13-26-18-3-2-8-21-12-18;/h2-8,12,14,16,22H,9-11,13H2,1H3;1H
